US05599811
2-Benzo[1,3]dioxol-5-ylmethyl-1,1-dioxo-1,2-dihydro-1λ6 -benzo[d]isothiazol-3-one
To saccharin (5.0 g, 0.0273 mol) in DMF (10 mL) was added Nail (1.15 g, 60% in oil, 0.0288 mol) with ice bath cooling. After stirring for 10 minutes. a solution of 3,4-methylenedioxybenzyl chloride in methylene chloride, 50% by weight, (10 g, 0.0293 mol) was added and the mixture stirred for 16 hours. The mixture was diluted with ethyl acetate (200 mL) containing 10% methylene chloride and washed with IN HCl (2×100 mL). The organic phase was washed with brine and dried over MgSO4. The mixture was concentrated until crystals were apparent. After standing for 16 hours the product was collected by filtration (4.2 g, 49%);

reactant | saccharin | 0.0273 mol, 5.0 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | 3,4-methylenedioxybenzyl chloride | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-Benzo[1,3]dioxol-5-ylmethyl-1,1-dioxo-1,2-dihydro-1λ6 -benzo[d]isothiazol-3-one | O1COC2=C1C=CC(=C2)CN2S(C1=C(C2=O)C=CC=C1)(=O)=O | C15H11NO5S
